US04665097
Part A: Preparation of 4-Chloro-5-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-2-nitrotoluene
To a solution containing 39.96 g of 4,5-dichloro-2-nitrotoluene and 39.30 g of 4-chloro-5,6,7,8-tetrahydro-1-naphthol in 250 ml of DMF under an atmosphere of nitrogen and at room temperature was added 3.87 g of anhydrous potassium carbonate. The resulting mixture was then heated to 110° C. After 20 hrs at 110° C., the reaction mixture was cooled to room temperature. The DMF was removed in vacuo. The residue was dissolved in 500 ml of warm toluene and filtered through celite. The filter cake was thoroughly washed with toluene. The solvents from the combined filtrates were removed to afford 67.04 g of tan powder. This material was recrystallized from a hexane-ethyl acetate mixture to afford 49.46 g of the desired product as light tan crystals. mp 139°-140° C. NMR (CDCl3): 1.6-1.9 (m, 4H), 2.4-2.9 (m, 7H, contains singlet at 2.45), 6.51 (s, 1H), 6.73 (d, J-8 Hz, 1H), 7.18 (d, J=8 Hz, 1H), 8.15 (s, 1H).

reactant | 4,5-dichloro-2-nitrotoluene | 39.96 g | ClC1=CC(=C(C=C1Cl)C)[N+](=O)[O-] | C7H5Cl2NO2
reactant | 4-chloro-5,6,7,8-tetrahydro-1-naphthol | 39.30 g | ClC1=CC=C(C=2CCCCC12)O | C10H11ClO
reactant | potassium carbonate | 3.87 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-5-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-2-nitrotoluene | 67.04 g | ClC1=CC(=C(C=C1OC1=CC=C(C=2CCCCC12)Cl)C)[N+](=O)[O-] | C17H15Cl2NO3
